US04622322
1. 5,6-Dihydro-1,4(4H)-thiazin-2-yl 4-fluorophenyl ketone
2.527 kg (34.5M) n-Butylamine is added to a stirred solution of 23 1 ethanol and 4.58 kg (11,5M) 2-[2-(2-dimethylamino-1-(4-fluorobenzoyl)vinylthio)ethyl]-1,3-isoindoledione under nitrogen atomosphere and the solution is heated at reflux temperature for 24 hours. The reaction mixture is cooled and stirred at 10° for 3 hours. The crude product is collected by filtration, washed several times with ethanol and ether and dried. The crude product is dissolved at 90° in dimethylformamide and the solution is filtered through a heated funnel. A solid begins to form and the resulting suspension is stirred at room temperature overnight, filtered, washed with ether and dried. M.P. 212°-214° ; IR (N): NH 3100, C=O 1580; NMR (DMSO): 7.02-7.55 (m, 6H), 3.48 (m, 2H), 2.77 (m, 2H).

reactant | n-Butylamine | 34.5M, 2.527 kg | C(CCC)N | C4H11N
reactant | 2-[2-(2-dimethylamino-1-(4-fluorobenzoyl)vinylthio)ethyl]-1,3-isoindoledione | 11,5M, 4.58 kg | CN(C=C(SCCN1C(C2=CC=CC=C2C1=O)=O)C(C1=CC=C(C=C1)F)=O)C | C21H19FN2O3S
solvent | ethanol | C(C)O | C2H6O
product | 5,6-Dihydro-1,4(4H)-thiazin-2-yl 4-fluorophenyl ketone | FC1=CC=C(C=C1)C(=O)C=1SCCNC1 | C11H10FNOS
